US07524813B2
At 0° C., a 60% suspension of sodium hydride in mineral oil (0.69 g, 17.2 mmol) was added to a solution of N-hydroxyphthalimide (2.80 g, 17.2 mmol) in N,N-dimethylformamide (20 ml). The reaction mixture was stirred for 45 min at 0° C. A solution of 4-[2-(toluene-4-sulfonyloxy)ethyl]piperidine-1-carboxylic acid tert-butyl ester (5.99 g, 15.6 mmol) in N,N-dimethylformamide (15 ml) and tetrabutylammonium iodide (0.17 g, 0.47 mmol) were added successively. The reaction mixture was heated to 60° C. for 2 days and cooled to room temperature. Water (5 ml) was added carefully. The reaction mixture was diluted with ethyl acetate (250 ml) and washed with a 10% aqueous solution of sodium hydrogensulphate (200 ml). The aqueous phase was extracted with ethyl acetate (200 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogencarbonate (150 ml) and dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (80 g), using ethyl acetate/heptane 1:1 as eluent to give 4.36 g of 4-[2-(1,3-dioxo-1,3-dihydroisoindol-2-yloxy)ethyl]piperidine-1-carboxylic acid tert-butyl ester.

reactant | sodium hydride | [H-].[Na+]
reactant | N-hydroxyphthalimide | 17.2 mmol, 2.80 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 4-[2-(toluene-4-sulfonyloxy)ethyl]piperidine-1-carboxylic acid tert-butyl ester | 15.6 mmol, 5.99 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C19H29NO5S
reactant | Water | 5 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium iodide | 0.47 mmol, 0.17 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 4-[2-(1,3-dioxo-1,3-dihydroisoindol-2-yloxy)ethyl]piperidine-1-carboxylic acid tert-butyl ester | 4.36 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCON1C(C2=CC=CC=C2C1=O)=O | C20H26N2O5
